US05304555
Phosphorus oxychloride (26.2 g) was added to 2.26 g (9.45 mmoles) of ethyl 2-isopropylamino-4-hydroxypyrimidine-5-acetate, and the mixture was heated under reflux for 3 hours. The reaction mixture was concentrated under reduced pressure, and chloroform and ice water were added. It was then neutralized with sodium hydrogen carbonate. The chloroform layer was separated, and the solvent was evaporated. The residue was purified by silica gel column chromatography to give 1.80 g (yield 74%; melting point 67°-71° C.) of ethyl 2-isopropylamino-4-chloropyrimidine-5-acetate. To the product were added 1.05 g (13.5 mmoles) of a 40% methanol solution of methylamine and 10 ml of ethanol were added, and the mixture was reacted at 120 ° C. for 7 hours in an autoclave. Water was added, and the mixture was extracted with chloroform. The solvent was evaporated. The residue was purified by silica gel column chromatography to give 0.50 g (yield 35%) of the desired compound.

reactant | Phosphorus oxychloride | 26.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 2-isopropylamino-4-hydroxypyrimidine-5-acetate | 9.45 mmoles, 2.26 g | C(C)(C)NC1=NC=C(C(=N1)O)CC(=O)OCC | C11H17N3O3
product | ethyl 2-isopropylamino-4-chloropyrimidine-5-acetate | 1.80 g, yield 74% | C(C)(C)NC1=NC=C(C(=N1)Cl)CC(=O)OCC | C11H16ClN3O2
